US09079919B2
3-[(2′R,4R)-2-Amino-5,5-difluoro-5,5″,6,6″-tetrahydro-4″H-dispiro[1,3-oxazine-4,4′-chromene-2′,3″-pyran]-6′-yl]benzonitrile formate
In a manner analogous to that described in Example 19, the cross coupling reaction of (2′R,4R)-6′-bromo-5,5-difluoro-5,5″,6,6″-tetrahydro-4″H-dispiro[1,3-oxazine-4,4′-chromene-2′,3″-pyran]-2-amine (intermediate B6.7) with 3-cyanophenylboronic acid and chromatography on preparative HPLC yielded the title compound (25% yield) as a pale yellow solid. MS (ISP): m/z=426.2 [M+H]+.

reactant | (2′R,4R)-6′-bromo-5,5-difluoro-5,5″,6,6″-tetrahydro-4″H-dispiro[1,3-oxazine-4,4′-chromene-2′,3″-pyran]-2-amine | BrC=1C=C2[C@@]3(C[C@]4(COCCC4)OC2=CC1)N=C(OCC3(F)F)N | C16H17BrF2N2O3
reactant | 3-cyanophenylboronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 3-[(2′R,4R)-2-Amino-5,5-difluoro-5,5″,6,6″-tetrahydro-4″H-dispiro[1,3-oxazine-4,4′-chromene-2′,3″-pyran]-6′-yl]benzonitrile formate | 25% yield | C(=O)O.NC=1OCC([C@]2(C[C@]3(COCCC3)OC3=CC=C(C=C23)C=2C=C(C#N)C=CC2)N1)(F)F | InChI=1S/C23H21F2N3O3.CH2O2/c24-23(25)14-30-20(27)28-22(23)12-21(7-2-8-29-13-21)31-19-6-5-17(10-18(19)22)16-4-1-3-15(9-16)11-26;2-1-3/h1,3-6,9-10H,2,7-8,12-14H2,(H2,27,28);1H,(H,2,3)/t21-,22-;/m1./s1
